US09168245B2
Synthesis of intermediate X-a: 5-(3-Nitro-phenyl)-oxazole
Intermediate X-a was prepared as for example I-c using 3-nitrobenzaldehyde (4 g, 26 mmol), TosMIC (5.7 g, 29 mmol) and K2CO3 (4.4 g, 32 mmol) in MeOH to give intermediate X-a as a yellow solid (4.7 g, 93%). 1H NMR (400 MHz, DMSO-d6) δ 8.56 (s, 1H), 8.50 (t, J=1.9 Hz, 1H), 8.21 (ddd, J=8.2, 2.3, 1.0 Hz, 1H), 8.17 (ddd, J=7.8, 1.6, 1.0 Hz, 1H), 7.99 (s, 1H), 7.78 (t, J=8.0 Hz, 1H).

reactant | 3-nitrobenzaldehyde | 26 mmol, 4 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | TosMIC | 29 mmol, 5.7 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 32 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | CO | CH4O
product | 5-(3-Nitro-phenyl)-oxazole | 4.7 g, 93% | [N+](=O)([O-])C=1C=C(C=CC1)C1=CN=CO1 | C9H6N2O3
